US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}-N′-(2-methylbenzoyl)thiourea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 2-methyl-1-benzenecarbonyl isothiocyanate (50 μl) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (66 mg, yield 80%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitroaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C17H15N3O5
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 2-methyl-1-benzenecarbonyl isothiocyanate | 50 μl | CC1=C(C=CC=C1)C(=O)N=C=S | C9H7NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-nitrophenyl}-N′-(2-methylbenzoyl)thiourea | 66 mg, yield 80% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=S)NC(C1=C(C=CC=C1)C)=O)[N+](=O)[O-] | C26H22N4O6S
